US09353096B2
2-(3,5-Dichlorophenyl)morpholine oxalate (1 g) from Chem-Impex was added to 5% aq NaOH and dichloromethane and extracted (3×100 mL dichloromethane). Combined extracts were dried over Na2SO4, filtered and concentrated to afford 728 mg of 2-(3,5-dichlorophenyl)morpholine as the free-base. In a 100 mL round-bottom flask, 2-(3,5-dichlorophenyl)morpholine (728 mg, 3.14 mmol) and (S)-2-(trifluoromethyl)oxirane (527 mg, 4.7 mmol) were combined with acetonitrile (10.0 ml) to give a yellow solution. Stirring was continued at room temperature for 3 days. Reaction mixture was concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 40 g, 5% to 20% EtOAc in hexanes) to afford (2S)-3-(2-(3,5-dichlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol (1.06 g, 98%) as a colorless oil. (M+H)+=344, 346 m/e. Used as is.

reactant | 2-(3,5-dichlorophenyl)morpholine | 3.14 mmol, 728 mg | ClC=1C=C(C=C(C1)Cl)C1CNCCO1 | C10H11Cl2NO
reactant | (S)-2-(trifluoromethyl)oxirane | 4.7 mmol, 527 mg | FC([C@H]1OC1)(F)F | C3H3F3O
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
product | (2S)-3-(2-(3,5-dichlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol | 1.06 g, 98% | ClC=1C=C(C=C(C1)Cl)C1OCCN(C1)C[C@@H](C(F)(F)F)O | C13H14Cl2F3NO2
